Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],3.88021764278
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.75949769962
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.6018801859799998
[C:1]#[C:2][H:3].[C:4]([H:5])(=[C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-0.8108817813600001
[O:1].[O:2]=[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.5347889730100001
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.32001519586
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.0463066134500005
[H:1].[O:2]=[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.30630511067
[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-7.4849050742299985
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.4108420524000005
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][H:8]>>[C:1].[C:2]([H:3])=[C:4]([H:5])[O:6][C:7][H:8],5.04028411636
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11],-3.14845087264
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.39510408569
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4],2.27274223227
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[O:8][H:9]>>[C:4]=[C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2]#[C:3],6.764487849680001
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.43128076333
[C:7]([H:8])(=[C:9])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-7.09329228163
[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3]([H:4])#[C:5][O:6][H:7],1.3534452150299998
[C:2](#[C:3][H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.34330701885
[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-1.34287905734
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-2.56823865
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2][C:13]([C:10]([C:7]([C:5](=[C:3][H:4])[H:6])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],5.939247463919999
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.20989502145
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[H:10],0.02702533518
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.87006217391
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][O:3],2.9375918175300004
[C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-2.27274223227
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[O:9],3.42486855788
[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]1[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]=[C:11]([H:12])[H:13],-0.30426023389
